US09382236B2
1-(2-Chlorophenyl)-N-[4-(2,4-dioxo-6-methyl-1H-benzo[1,2-b][1,4]diazepin-1-yl)phenyl]methanesulfonamide
By using 1-(4-aminophenyl)-6-methyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione (20 mg, 0.071 mmol), and 2-chlorobenzylsulfonyl chloride (19 mg, 0.084 mmol), the title compound (32 mg, yield 96%) was obtained in the same manner as that of Example 145.

reactant | 1-(4-aminophenyl)-6-methyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 0.071 mmol, 20 mg | NC1=CC=C(C=C1)N1C(CC(NC2=C1C=CC=C2C)=O)=O | C16H15N3O2
reactant | 2-chlorobenzylsulfonyl chloride | 0.084 mmol, 19 mg | ClC1=C(CS(=O)(=O)Cl)C=CC=C1 | C7H6Cl2O2S
product | 1-(2-Chlorophenyl)-N-[4-(2,4-dioxo-6-methyl-1H-benzo[1,2-b][1,4]diazepin-1-yl)phenyl]methanesulfonamide | 32 mg, yield 96% | ClC1=C(C=CC=C1)CS(=O)(=O)NC1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C(=CC=C2)C | C23H20ClN3O4S
